US09422292B2
A solution of 1-(4-chlorophenyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (2.00 g, 7.0 mmol) and P2S5 (1.87 g, 8.4 mmol) in pyridine (40 ml) was refluxed, with stirring for 1 h under N2 atmosphere. The solvent was evaporated in vacuo to afford a residue. The residue was purified by column chromatography (silica-gel, DCM:MEOH=40:1) to give 1-(4-chlorophenyl)-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (1.05 g, 49%). LRMS (M+H+) m/z: calcd 302.03. found 302.

reactant | 1-(4-chlorophenyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 7.0 mmol, 2.00 g | ClC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C=CC=C2 | C15H11ClN2O2
reactant | P2S5 | 8.4 mmol, 1.87 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-chlorophenyl)-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 1.05 g, 49% | ClC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=S)C=CC=C2 | C15H11ClN2OS
